US05140041
1-(4'-Bromophenoxycarbonyl)-2-pyrrolidinone
To a solution of 4-bromophenyl chloroformate (4.19 g, 20.0 mmol) in anhydrous benzene (20 ml) was added a solution of 1-trimethylsilyl-2-pyrrolidinone (3.46 g, 22.0 mmol) in anhydrous benzene (10 ml). The mixture was stirred at room temperature for 30 min. The reaction mixture was evaporated under reduced pressure to dryness to give a solid material. Recrystallization from 2-propanol afforded 3.00 g of colorless prisms. Yield 53%

reactant | 4-bromophenyl chloroformate | 20.0 mmol, 4.19 g | ClC(=O)OC1=CC=C(C=C1)Br | C7H4BrClO2
reactant | 1-trimethylsilyl-2-pyrrolidinone | 22.0 mmol, 3.46 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-(4'-Bromophenoxycarbonyl)-2-pyrrolidinone | 3.00 g, Yield 53% | BrC1=CC=C(OC(=O)N2C(CCC2)=O)C=C1 | C11H10BrNO3
